### PR TITLE
ln is concave

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

preliminary step for the revision of PR #942 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

##### Compatibility with MathComp 2.0

- [x] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: theories/exp.v [hunk 1]
```diff
@@ -601,6 +601,15 @@ apply: (@is_derive_inverse R expR); first by near=> z; apply: expRK.
 by rewrite lnK // lt0r_neq0.
 Unshelve. all: by end_near. Qed.
 
+Local Open Scope convex_scope.
+Lemma concave_ln (t : {i01 R}) (a b : R^o) : a \is Num.pos -> b \is Num.pos ->
```
Comment (zstone1) [inline theories/exp.v:605]: Why do we use `0<a` before, and Num.Pos here?

Comment (affeldt-aist) [reply theories/exp.v:605]: This should be `0 <`. I used `Num.pos` because it was used in several `ln` lemmas but this is not the intended usage of `Num.pos` here.

File: theories/convex.v [hunk 2]
```diff
@@ -132,6 +132,23 @@ HB.instance Definition _ := @isConvexSpace.Build R R^o
 
 End realDomainType_convex_space.
 
+Section conv_realDomainType.
+Context {R : realDomainType}.
+
+Lemma conv_gt0 (a b : R^o) (t : {i01 R}) : 0 < a -> 0 < b -> 0 < a <| t |> b.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/convex.v:138]: It looks like a good idea but I'd prefer to do it later because I may need @proux01 's help (I easily forget about signed.v). I will issue after merging.

File: theories/exp.v [hunk 3]
```diff
@@ -601,6 +601,15 @@ apply: (@is_derive_inverse R expR); first by near=> z; apply: expRK.
 by rewrite lnK // lt0r_neq0.
 Unshelve. all: by end_near. Qed.
 
+Local Open Scope convex_scope.
+Lemma concave_ln (t : {i01 R}) (a b : R^o) : 0 < a -> 0 < b ->
+  (ln a : R^o) <| t |> (ln b : R^o) <= ln (a <| t |> b).
```
Comment (CohenCyril) [inline theories/exp.v:606]: @affeldt-aist why the `R^o` here?

Comment (affeldt-aist) [reply theories/exp.v:606]: The only instance where `lmodType` and `R^o` with `R : realDomainType`. PR #1010 hopefully improves the situation be providing direct instances for `realDomainType`, `realFieldType`, and `realType`.

File: theories/convex.v (hunk 2 above)
[the remark this answers is not in the document]
Comment (proux01) [reply theories/convex.v:138]: I guess you should take inspiration from min and max in signed.v
